US07951805B2
Bromodifluoroacetyl chloride (0.800 g, 4.1 mmol) was added dropwise to a cooled (0° C.) solution of 4-(2-Iodophenylamino)piperidine-1-carboxylic acid tert-butyl ester (1.500 g, 3.7 mmol) and triethylamine (1.0 mL, 7.1 mmol) in dichloromethane (20 mL). The cooling bath was removed 30 minutes after the addition of all reagents. The reaction mixture was stirred at ambient temperature for 1 hour, then diluted with ethyl acetate, washed with water and brine, dried over anhydrous Na2SO4 and concentrated. Purification of the residue by flash chromatography to afford 4-[(2-bromo-2,2-difluoroacetyl)-(2-iodophenyl)amino]piperidine-1-carboxylic acid tert-butyl ester (1.730 g, 83%). 1H NMR (300 MHz, CDCl3) δ 7.88 (dd, J=1.2 and 7.8 Hz, 1H), 7.41-7.06 (m, 3H), 4.45-4.37 (m, 1H), 4.17-4.03 (m, 2H), 2.81-2.64 (m, 2H), 2.18-2.12 (m, 1H), 1.89-1.84 (m, 1H), 1.59-1.52 (m, 1H), 1.40 (s, 9H), 1.25-0.98 (m, 1H).

reactant | Bromodifluoroacetyl chloride | 4.1 mmol, 0.800 g | BrC(C(=O)Cl)(F)F | C2BrClF2O
reactant | 4-(2-Iodophenylamino)piperidine-1-carboxylic acid tert-butyl ester | 3.7 mmol, 1.500 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)I | C16H23IN2O2
reactant | triethylamine | 7.1 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[(2-bromo-2,2-difluoroacetyl)-(2-iodophenyl)amino]piperidine-1-carboxylic acid tert-butyl ester | 1.730 g, 83% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C=CC=C1)I)C(C(F)(F)Br)=O | C18H22BrF2IN2O3
